US04105790
Methyl 4-phenoxybutyrate was reacted with acetyl chloride in a similar manner to that described above for 3-[4-(chloroacetyl)phenyl]propionic acid, except that the crude product was triturated with petrol to give methyl 4-[4-(chloroacetyl)phenoxy]butyrate as a crystalline solid which was pure by TLC analysis (on silica plates; eluant: 50% ether/50% petrol).

reactant | Methyl 4-phenoxybutyrate | O(C1=CC=CC=C1)CCCC(=O)OC | C11H14O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 3-[4-(chloroacetyl)phenyl]propionic acid | ClCC(=O)C1=CC=C(C=C1)CCC(=O)O | C11H11ClO3
product | methyl 4-[4-(chloroacetyl)phenoxy]butyrate | ClCC(=O)C1=CC=C(OCCCC(=O)OC)C=C1 | C13H15ClO4
